* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 15.2
R1 n1 a 2
R2 a nc 2
V2 nc nd DC 34.4
R3 nd ne 4
V3 b ne DC 18.9
V4 nf b DC 8.5
R4 nf 0 3
.op
.print dc V(a) V(b)
.end